US06660736B2
a) 5-Hydroxy-2-(2-methoxy-ethyl)-isoindole-1,3-dione
A mixture of 4-hydroxyphthalic acid (0.91 mg, 5.0 mmol) and carbonyldiimidazole (0.85 g, 5 mmol) in N,N-dimethylacetamide (3 mL) was stirred at room temperature for 45 min. To this mixture was added 2-methoxyethylamine (0.47 g, 6.0 mmol) and the resulting mixture heated under reflux for 15 min. After cooling to room temperature, the mixture was evaporated and the residue was purified by chromatography (SiO2, CH2Cl2:2N NH3/MeOH 19:1 to 9:1) to afford the title compound (1.1 g, 95%) as a light yellow solid. MS: m/e=220.1 (M−H−).

reactant | 4-hydroxyphthalic acid | 5.0 mmol, 0.91 mg | OC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H6O5
reactant | carbonyldiimidazole | 5 mmol, 0.85 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-methoxyethylamine | 6.0 mmol, 0.47 g | COCCN | C3H9NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | 5-Hydroxy-2-(2-methoxy-ethyl)-isoindole-1,3-dione | 1.1 g, 95% | OC=1C=C2C(N(C(C2=CC1)=O)CCOC)=O | C11H11NO4
